US04783467
1-(4-Amino-3-cyano-5-methylphenyl)-2,4-dimethylimidazole
A mixture of 1-(4-amino-3-bromo-5-methylphenyl)-2,4-dimethylimidazole (17.3 g) and cuprous cyanide (17.9 g) was heated and stirred at 150° in N-methylpyrrolidone (50 cm3) for 6 hours. The cooled mixture was partitioned between ammonia solution (200 cm3 ; S.G. 0.880) and chloroform (200 cm3). The aqueous phase was extracted further with chloroform (2×100 cm3), and the combined and dried (MgSO4) organic phases were evaporated in vacuo to give an oil, which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]), eluting with dichloromethane:methanol, 19:1. Combination and evaporation of the appropriate fractions gave an oil which was triturated with ether to give a solid (10.05 g). A small portion of this material was recrystallised from ethyl acetate-methanol to afford the title compound, m.p. 214°-217°.

reactant | 1-(4-amino-3-bromo-5-methylphenyl)-2,4-dimethylimidazole | 17.3 g | NC1=C(C=C(C=C1C)N1C(=NC(=C1)C)C)Br | C12H14BrN3
reactant | N-methylpyrrolidone | 50 cm3 | CN1C(CCC1)=O | C5H9NO
product | 1-(4-Amino-3-cyano-5-methylphenyl)-2,4-dimethylimidazole | 10.05 g | NC1=C(C=C(C=C1C)N1C(=NC(=C1)C)C)C#N | C13H14N4
